US09447041B2
Step D: Preparation of E/Z Ethyl 2-(7-(Benzyloxy)-1,2-dihydrocyclopenta[b]indol-3(4H)-ylidene)acetate
To a 400 L glass-lined reactor equipped with overhead agitation, jacket temperature control, and a nitrogen inlet was added (4-(benzyloxy)phenyl)hydrazine hydrochloride (21.08 kg, 1.000 mole equiv.), ethyl 2-(2-morpholinocyclopent-2-enylidene)acetate (22.02 kg, 1.104 mole equiv.), ethanol (51.2 kg, 2.429 mass equiv.), and acetic acid (36.8 kg, 1.746 mass eq.). After the reactor contents are allowed to stand for 10 minutes, agitation and then heating to 60′C to 65° C. (60° C. target) was started. While stirring at that temperature, samples of the reaction mixture were taken over intervals of approximately 30 minutes and analyzed by HPLC for (4-(benzyloxy)phenyl)hydrazine, ethyl 2-(2-morpholinocyclopent-2-enylidene)acetate, and hydrazone content. When (4-(benzyloxy)phenyl)hydrazine HPLC % area was <1, TFA (11.6 kg, 101.7 mol, 1.200 mole equiv., 0.550 mass equiv.) was charged over approximately 1 hour while the stirred reaction mixture was maintained at 60° C.±5° C. with reactor jacket cooling. As stirring at 60° C. to 65° C. was continued, the hydrazone and imine content of the reaction mixture was monitored by HPLC. After stirring at 60° C. to 65° C. for at least 12 hours the imine content of the reaction mixture was <5% area by HPLC, and the stirred reaction mixture was cooled to 20° C. to 25° C. over approximately 3 hours. Stirring was maintained at that temperature to allow isomerization of the Z isomer to the desired E isomer. The E isomer crystallizes from the reaction mixture. The Z isomer and E isomer % area content of the reaction mixture was monitored by HPLC during this period of stirring at 20° C. to 25° C., which was continued until the Z-isomer content of the reaction mixture was <15% area by HPLC.

reactant | (4-(benzyloxy)phenyl)hydrazine hydrochloride | 1.000 mole, 21.08 kg | Cl.C(C1=CC=CC=C1)OC1=CC=C(C=C1)NN
reactant | ethyl 2-(2-morpholinocyclopent-2-enylidene)acetate | 1.104 mole, 22.02 kg | O1CCN(CC1)C=1C(CCC1)=CC(=O)OCC | C13H19NO3
reactant | (4-(benzyloxy)phenyl)hydrazine | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NN | C13H14N2O
reactant | TFA | 101.7 mol, 11.6 kg | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | acetic acid | 36.8 kg | C(C)(=O)O | C2H4O2
solvent | ethanol | 51.2 kg | C(C)O | C2H6O
product | Ethyl 2-(7-(Benzyloxy)-1,2-dihydrocyclopenta[b]indol-3(4H)-ylidene)acetate | C(C1=CC=CC=C1)OC1=CC=2C3=C(NC2C=C1)C(CC3)=CC(=O)OCC | C22H21NO3
